US07538242B2
Synthesis of n-butyl (S)-2-trifluoromethanesulfonyloxybutyrate
n-Butyl (S)-2-hydroxybutyrate (1.0 g, 99% ee) was dissolved in methylene chloride (8 mL), and pyridine (518 mg) was added at 0° C. to the resultant solution. Subsequently, trifluoromethanesulfonic anhydride (1.8 g) was added dropwise thereto at 0° C., and the mixture was stirred for 10 minutes. The reaction mixture was directly subjected to silica gel column chromatography, followed by passage of methylene chloride through the column. The eluate of interest was concentrated under reduced pressure, to thereby yield 1.8 g of a colorless, oily substance (98.2%).

reactant | n-Butyl (S)-2-hydroxybutyrate | 1.0 g | O[C@H](C(=O)OCCCC)CC | C8H16O3
reactant | pyridine | 518 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | n-butyl (S)-2-trifluoromethanesulfonyloxybutyrate | FC(S(=O)(=O)O[C@H](C(=O)OCCCC)CC)(F)F | C9H15F3O5S
